US06528525B1
(b) 4′-Methoxymethoxy-3′,5′-dimethylbiphenyl-4-carboxylic acid
In a similar manner to that described in Example 2, a reaction was carried out using methyl 4′-methoxymethoxy-3′,5′-dimethylbiphenyl-4-carboxylate (1.24 g) and aqueous sodium hydroxide (1N, 8.20 ml) and the reaction mixture was treated to afford the desired compound (0.99 g) as colorless crystals.

reactant | methyl 4′-methoxymethoxy-3′,5′-dimethylbiphenyl-4-carboxylate | 1.24 g | COCOC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)OC)C | C18H20O4
reactant | sodium hydroxide | 1N, 8.20 ml | [OH-].[Na+]
product | 4′-Methoxymethoxy-3′,5′-dimethylbiphenyl-4-carboxylic acid | 0.99 g | COCOC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)O)C | C17H18O4
